US07572921B2
1-(4-{2-[[1-(3,5-Dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-amino]-ethyl}-piperazin-1-yl)-ethanone
To a solution of [1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-(2-piperazin-1-yl-ethyl)-amine (55 mg, 0.12 mmol) in CH2Cl2 at ambient temperature was added dropwise Ac2O (34 μL, 0.36 mmol). The mixture was stirred for 2 h before addition of saturated NaHCO3 (6 mL). The mixture was extracted with CH2Cl2 (2×20 mL) and the combined extracts dried over Na2SO4 then concentrated in vacuo. The residue was purified by semi-preparative HPLC to provide the title compound (42 mg, 66%) as a viscous oil: ESI MS m/z 518 [C26H30Cl2FN5O+H]+.

reactant | [1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-(2-piperazin-1-yl-ethyl)-amine | 0.12 mmol, 55 mg | ClC=1C=C(CN2C(=NC=C2)CN(CCN2CCNCC2)CC2=CC(=CC=C2)F)C=C(C1)Cl | C24H28Cl2FN5
reactant | Ac2O | 0.36 mmol, 34 μL | CC(=O)OC(=O)C | C4H6O3
reactant | NaHCO3 | 6 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-{2-[[1-(3,5-Dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-amino]-ethyl}-piperazin-1-yl)-ethanone | 42 mg, 66% | ClC=1C=C(CN2C(=NC=C2)CN(CCN2CCN(CC2)C(C)=O)CC2=CC(=CC=C2)F)C=C(C1)Cl | C26H30Cl2FN5O
